US05556861
A solution of 18 g of trans-3-amino-2-methylazetidine dimethanesulphonate and 12.7 g of triethylamine in 150 cm3 of dimethyl sulphoxide is heated with stirring to approximately 70° C. for 20 minutes. At the same temperature, 14.5 g of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are added in small portions in the course of 10 minutes, and the mixture is heated to approximately 90° C. for 2 hours. After cooling to approximately 20° C., the reaction mixture is poured into 400 cm3 of water at the same temperature. The insoluble matter is drained, washed with twice 100 cm3 of water and twice 100 cm3 of ethanol and recrystallized in 300 cm3 of dimethylformamide. 13.9 g of 8-(trans-3-amino-2-methyl-1-azetidinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 265°-267° C.

reactant | trans-3-amino-2-methylazetidine dimethanesulphonate | 18 g | CS(=O)(=O)O.CS(=O)(=O)O.N[C@H]1[C@@H](NC1)C
reactant | triethylamine | 12.7 g | C(C)N(CC)CC | C6H15N
reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 14.5 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | water | 400 cm3 | O | H2O
solvent | dimethyl sulphoxide | 150 cm3 | CS(=O)C | C2H6OS
product | 8-(trans-3-amino-2-methyl-1-azetidinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 13.9 g | N[C@H]1[C@@H](N(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F)C | C18H17FN4O3
